US07462629B2
A microwave vial is charged with 3-[6-(4-chloro-3-trifluoromethyl-phenoxymethyl)-3,4-dihydro-1H-isoquinolin-2-yl]-propionic acid tert-butyl ester (56 mg, 0.119 mmol), phenylboronic acid (17 mg, 1.2 eq.), Pd(OAc)2 (1.3 mg, 5 mol %), (dicyclohexylphosphino)biphenyl (4.2 mg, 10 mol %), KF (21 mg, 3 eq.), and THF (0.25 mL). The resulting mixture is heated to 120° C. using microwave irradiation for 20 minutes. The mixture is filtered through celite. The celite is washed with EtOAc several times. The filtrate is then concentrated to give a dark oil. The mixture is purified by column chromatography (silica gel, EtOAc/Hexane, gradient) to give 3-[6-(2-trifluoromethyl-biphenyl-4-yloxymethyl)-3,4-dihydro-1H-isoquinolin-2-yl]-propionic acid tert-butyl ester.

reactant | 3-[6-(4-chloro-3-trifluoromethyl-phenoxymethyl)-3,4-dihydro-1H-isoquinolin-2-yl]-propionic acid tert-butyl ester | 0.119 mmol, 56 mg | C(C)(C)(C)OC(CCN1CC2=CC=C(C=C2CC1)COC1=CC(=C(C=C1)Cl)C(F)(F)F)=O | C24H27ClF3NO3
reactant | phenylboronic acid | 17 mg, 1.2 eq. | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | (dicyclohexylphosphino)biphenyl | 4.2 mg | C1(CCCCC1)P(C1CCCCC1)C1=C(C=CC=C1)C1=CC=CC=C1 | C24H31P
reactant | KF | 21 mg, 3 eq. | [F-].[K+]
catalyst | Pd(OAc)2 | 1.3 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | THF | 0.25 mL | C1CCOC1 | C4H8O
product | 3-[6-(2-trifluoromethyl-biphenyl-4-yloxymethyl)-3,4-dihydro-1H-isoquinolin-2-yl]-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCN1CC2=CC=C(C=C2CC1)COC1=CC(=C(C=C1)C1=CC=CC=C1)C(F)(F)F)=O | C30H32F3NO3
